US07829580B2
(E)-3-{[1-(Carboxymethyl)-1H-pyrazol-5-yl]methylidene}-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-4-sulfanylpiperidine hydrochloride (Exemplification Compound No. 2-349)
To a solution of (E)-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-{[1-(ethoxycarbonylmethyl)-1H-pyrazol-5-yl]methylidene}-4-sulfanylpiperidine hydrochloride (70 mg) in 3N aqueous hydrochloric acid solution (15 ml), and the resulting mixture was stirred at 50° C. for 2.5 hours. The reaction mixture was concentrated in vacuo, and the residue was purified by a preparative HPLC [YMC-Pack ODS-A; YMC, mobile phase: 25 to 27% acetonitrile/water (0.02% aqueous hydrochloric acid solution)] to afford the title compound (50 mg, yield: 75%) as a pale yellow amorphous solid.

reactant | (E)-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-3-{[1-(ethoxycarbonylmethyl)-1H-pyrazol-5-yl]methylidene}-4-sulfanylpiperidine hydrochloride | 70 mg | Cl.C1(CC1)C(C(C1=C(C=CC=C1)F)N1C\C(\C(CC1)S)=C/C1=CC=NN1CC(=O)OCC)=O
solvent | hydrochloric acid | 3N, 15 ml | Cl | ClH
product | (E)-3-{[1-(Carboxymethyl)-1H-pyrazol-5-yl]methylidene}-1-[2-cyclopropyl-1-(2-fluorophenyl)-2-oxoethyl]-4-sulfanylpiperidine hydrochloride | 50 mg, yield: 75% | Cl.C(=O)(O)CN1N=CC=C1\C=C\1/CN(CCC1S)C(C(=O)C1CC1)C1=C(C=CC=C1)F | InChI=1S/C22H24FN3O3S.ClH/c23-18-4-2-1-3-17(18)21(22(29)14-5-6-14)25-10-8-19(30)15(12-25)11-16-7-9-24-26(16)13-20(27)28;/h1-4,7,9,11,14,19,21,30H,5-6,8,10,12-13H2,(H,27,28);1H/b15-11+;
